US06911562B2
2,4-dihydroxy acetophenone (76 g, 0.5 mole) was charged in a 1 liter autoclave reactor along with methanol (300 ml), and Raney Nickel (15.2 g—washed several times with water and water/methanol to a pH of 7.0) and 750 mg of Pd/C. The autoclave was checked for leaks with 100-200 psi of nitrogen. The autoclave was pressurized to 300 psi with hydrogen and stirred at 70° C. for 8 hrs. During this time 95% of the theoretical value for hydrogen was consumed. The reaction was vented and the contents were filtered through a milipore filter to give a light yellow solution. Concentration of this solution in vacuo gave a solid. This solid was crystalized from 1,2-dichloroethane to give 4-ethyl resorcinol in 70% isolated yield. The unreacted 2,4-dihydroxy acetophenone was recovered (˜27%) from the reaction mixture and was recycled. The structure of 4-ethyl resorcinol was characterized by using the NMR, Gas Chromatography, IR and Mass spectroscopy.

reactant | 2,4-dihydroxy acetophenone | 0.5 mole, 76 g | CC(=O)C=1C=CC(=CC1O)O | C8H8O3
catalyst | Raney Nickel | [Ni] | Ni
solvent | methanol | 300 ml | CO | CH4O
product | 4-ethyl resorcinol | C(C)C1=C(C=C(O)C=C1)O | C8H10O2
